US04638000
In a mixture of 200 ml of ethyl acetate and 12 g of pyridine is dissolved 11.5 g of ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-hydroxybutyrate, and 5 ml of thionyl chloride is added to the solution, followed by refluxing with stirring for 1 hour. After cooling, 500 ml of ethyl acetate of water and 100 ml are added to the reaction solution, followed by extraction. The extract is washed with 0.1N hydrochloric acid and water successively, dried over anhydrous magnesium sulfate and treated with activated carbon. The ethyl acetate is evaporated off to give 10.5 g of ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate pale yellow oil.

reactant | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-hydroxybutyrate | 11.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)O | C19H27NO5
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 12 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate | 10.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)Cl | C19H26ClNO4
